US04975431
1-(6,7,8,9-Tetrahydro-3-methyl-5H-cyclohepta[b]pyrid-2-yl)-1-(thiophen-2-yl)methanol
To a solution of 1.6M n-butyl lithium in n-hexane (16.5 ml) in toluene (20 ml) at -70° C., under nitrogen, was added a solution of 2-bromo-6,7,8,9-tetrahydro-3-methyl-5H-cyclohepta[b]pyridine (6 g 0.025 m) and the mixture kept at -20° C. for 0.25 hours. This was blown over into a solution of 2-thiophenecarboxaldehyde (3.0 g) in toluene (30 ml) kept at -20° C., then allowed to warm to room temperature and water added. The organic phase was extracted with 2N hydrochloric acid, then basified with solid potassium carbonate and extracted with chloroform. The combined chloroform extracts were dried (MgSO4) and evaporated. The residue was recrystallised from n-hexane to give the title compound (4.42g), m.p. 102°-4° C.

reactant | n-butyl lithium | 1.6M | C(CCC)[Li]
reactant | 2-bromo-6,7,8,9-tetrahydro-3-methyl-5H-cyclohepta[b]pyridine | 6 g | BrC1=C(C=C2C(=N1)CCCCC2)C | C11H14BrN
reactant | 2-thiophenecarboxaldehyde | 3.0 g | S1C(=CC=C1)C=O | C5H4OS
reactant | water | O | H2O
solvent | n-hexane | 16.5 ml | CCCCCC | C6H14
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(6,7,8,9-Tetrahydro-3-methyl-5H-cyclohepta[b]pyrid-2-yl)-1-(thiophen-2-yl)methanol | 4.42g | CC=1C=C2C(=NC1C(O)C=1SC=CC1)CCCCC2 | C16H19NOS
